US06770646B2
Methyl 4-(3-methyl-1-oxobutyl)-1-(1-naphthalenylmethyl)-1H-pyrrole-3-carboxylate (0.35 g) prepared as described in c) above and methylhydrazine (0.10 ml) in ethanol (15 ml) were heated to reflux for 16 hours. The mixture was poured into dilute hydrochloric acid and extracted with ethyl acetate, which was washed with brine, dried, and evaporated to a gum. The gum was chromatographed with ethyl acetate-isohexane (1:1) to afford a solid which was recrystallised from cyclohexane to give 2,6-dihydro-2-methyl-4-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyridazin-1-one (0.16 g).

reactant | Methyl 4-(3-methyl-1-oxobutyl)-1-(1-naphthalenylmethyl)-1H-pyrrole-3-carboxylate | 0.35 g | CC(CC(=O)C=1C(=CN(C1)CC1=CC=CC2=CC=CC=C12)C(=O)OC)C | C22H23NO3
reactant | methylhydrazine | 0.10 ml | CNN | CH6N2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2,6-dihydro-2-methyl-4-(2-methylpropyl)-6-(1-naphthalenylmethyl)-1H-pyrrolo[3,4-d]pyridazin-1-one | 0.16 g | CN1N=C(C=2C(C1=O)=CN(C2)CC2=CC=CC1=CC=CC=C21)CC(C)C | C22H23N3O
